US04450277
64.6 parts of n-octylamine and 34 parts of 25% strength aqueous ammonia aredissolved in 186 parts of propanol and are introduced dropwise over 30 minutes, simultaneously with a mixture of 72.5 parts of 40% strength aqueous glyoxal solution and 37.5 parts of 40% strength aqueous formaldehyde solution, into a stirred flask. The temperature is kept at 65° C. After all has been introduced, stirring is continued for 20 minutes at 65° C., and the mixture is then worked up by distillation. 64.2 parts of 1-octylimidazole (boiling point 110° C./1 mm Hg) are obtained, corresponding to a yield of 71.3% of theory.

reactant | n-octylamine | C(CCCCCCC)N | C8H19N
reactant | ammonia | N | H3N
reactant | glyoxal | C(=O)C=O | C2H2O2
reactant | formaldehyde | C=O | CH2O
solvent | propanol | C(CC)O | C3H8O
product | 1-octylimidazole | yield of 71.3% | C(CCCCCCC)N1C=NC=C1 | C11H20N2
